US06323240B1
2-hydroxy-3-benzyl-4-oxo-4-(3′,4′-dichlorophenyl)butanoic acid (PNU 167536):
2-hydroxy-3-phenyl-4-oxo-4-(3′,4′-dichlorophenyl)butanoic acid can be analogously prepared starting from from 1-(3′,4′-dichlorophenyl)-2-phenyl ethanone.

reactant | 2-hydroxy-3-phenyl-4-oxo-4-(3′,4′-dichlorophenyl)butanoic acid | OC(C(=O)O)C(C(C1=CC(=C(C=C1)Cl)Cl)=O)C1=CC=CC=C1 | C16H12Cl2O4
reactant | 1-(3′,4′-dichlorophenyl)-2-phenyl ethanone | ClC=1C=C(C=CC1Cl)C(CC1=CC=CC=C1)=O | C14H10Cl2O
product | 2-hydroxy-3-benzyl-4-oxo-4-(3′,4′-dichlorophenyl)butanoic acid | OC(C(=O)O)C(C(C1=CC(=C(C=C1)Cl)Cl)=O)CC1=CC=CC=C1 | C17H14Cl2O4
